US06794395B1
(16) 3-(Z)-{1-[4-(4-methyl-piperazin-1-yl)-anilino]-1-phenyl-methylidene}-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone and 4-(4-methyl-piperazin-1-yl)-aniline

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(C1=CC=CC=C1)OCC)=O | C21H21NO5
reactant | 4-(4-methyl-piperazin-1-yl)-aniline | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
product | 3-(Z)-{1-[4-(4-methyl-piperazin-1-yl)-anilino]-1-phenyl-methylidene}-5,6-dimethoxy-2-indolinone | CN1CCN(CC1)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C28H30N4O3
